US08097628B2
(a) 6-(Methyloxy)-3-nitro-2-pyridinamine
A solution/suspension of 2-chloro-6-(methyloxy)-3-nitropyridine (65.7 g, 348 mmol) in 2M ammonia in MeOH (500 ml, 1000 mmol) and aqueous ammonia (500 ml, 348 mmol) was stirred at 65° C. for 18 h. The reaction was cooled down and the solid filtered off and washed with water (2×100 ml). The solid was dried in the vacuum oven at 40° C. overnight to afford the product as a bright yellow solid (52.14 g, 84% purity by NMR, 74%).

reactant | 2-chloro-6-(methyloxy)-3-nitropyridine | 348 mmol, 65.7 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | MeOH | 1000 mmol, 500 ml | CO | CH4O
reactant | ammonia | 2M | N | H3N
reactant | ammonia | 348 mmol, 500 ml | N | H3N
product | 6-(Methyloxy)-3-nitro-2-pyridinamine | 52.14 g, 84% | COC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O3
